US08242104B2
Lithium tetrahydroaluminate (0.047 g, 1.3 mmol) was suspended in tetrahydrofuran (8 mL) and cooled to 0° C. A solution of 2-(1-isopropyl-1H-pyrazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxamide (0.3 g, 0.9 mmol) in tetrahydrofuran (2 mL) was added and the reaction mixture was stirred at cold temperature for 10 min. The flask was gradually brought to room temperature and stirred for 16 h. The reaction was quenched by pouring into a mixture of diethyl ether and saturated aqueous Rochelle's salt solution (1:1). The mixture containing significant emulsion was stirred very vigorously until the phases separated (ca. 2 h). The phases were partitioned and the aqueous layer was extracted numerous times with EtOAc. The combined organic layers were dried over MgSO4, filtered and concentrated to give (0.15 g, 0.46 mmol) (2-(1-isopropyl-1H-pyrazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)methanamine (MS (ESI+) m/z 323.1 (M+H+), calcd. 323.4) which was dissolved in glacial acetic acid (0.8 mL) and water (5 mL). A solution of potassium cyanate (0.114 g, 1.41 mmol) in water was added dropwise. N,N-dimethylformamide (3 mL) was added to help with dissolution. The resulting reaction mixture was stirred at room temperature for 12 h. Subsequently, the reaction was heated at 50° C. for 3 h. The mixture was cooled to room temperature and filtered to provide 0.02 g (10% yield) of 337. MS (ESI+) m/z 367.1 (M+H+), calcd. 367.4. 1H NMR (400 MHz, DMSO) δ 8.53 (s, 5H), 8.33 (d, J=8.2 Hz, 1H), 7.61 (d, J=3.7 Hz, 1H), 7.43 (s, 1H), 7.01 (d, J=8.7 Hz, 1H), 6.91 (s, 1H), 6.63 (s, 1H), 6.38 (s, 1H), 5.62 (s, 2H), 5.42 (s, 7H), 4.47 (s, 3H), 4.17 (d, J=5.8 Hz, 2H), 1.44 (d, J=6.4 Hz, 6H)

reactant | Lithium tetrahydroaluminate | 1.3 mmol, 0.047 g | [AlH4-].[Li+]
reactant | 2-(1-isopropyl-1H-pyrazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxamide | 0.9 mmol, 0.3 g | C(C)(C)N1N=CC=C1C=1N=C2N(CCOC3=C2C=CC(=C3)C(=O)N)C1 | C18H19N5O2
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (2-(1-isopropyl-1H-pyrazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)methanamine | 0.46 mmol, 0.15 g | C(C)(C)N1N=CC=C1C=1N=C2N(CCOC3=C2C=CC(=C3)CN)C1 | C18H21N5O
